US08022205B2
4-(3-Methoxy-phenyl)-2-morpholin-4-yl-7-pyridin-3-ylmethyl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine (A-04)
In the same manner as Example 1-A-01, from 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine and 3-aminomethylpyridine, the desired compound was obtained.

reactant | 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine | ClC1=NC(=NC(=C1CCCl)C1=CC(=CC=C1)OC)N1CCOCC1 | C17H19Cl2N3O2
reactant | 3-aminomethylpyridine | NCC=1C=NC=CC1 | C6H8N2
product | 4-(3-Methoxy-phenyl)-2-morpholin-4-yl-7-pyridin-3-ylmethyl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | COC=1C=C(C=CC1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)CC=2C=NC=CC2 | C23H25N5O2
